* 
V1 vin 0 PWL file=sig_in.csv
R1 vout vin 50R
C1 vout 0 {C}
L1 vout N001 {L}
R2 0 N001 50R
.tran 0 {transtop} 0 {timestep} startup
.include param.txt
.include trancmd.txt
* do not edit this by hand
.backanno
.end
